US04933355
5-{1-[2-[3-(3,4-Dichlorophenyl)ureido]thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid hemihydrate
Following a procedure similar to that described in Example 1, the desired compound was prepared from 3.9 g of ethyl 2-[3-(3,4-dichlorophenyl)ureido]thiazol-4-ylglyoxylate, 1.9 g of rhodanine-3-acetic acid, 1 g of ammonium chloride, 1 ml of 28% v/v aqueous ammonia and 60 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-[3-(3,4-dichlorophenyl)ureido]thiazol-4-ylglyoxylate | 3.9 g | ClC=1C=C(C=CC1Cl)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H11Cl2N3O4S
reactant | rhodanine-3-acetic acid | 1.9 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-{1-[2-[3-(3,4-Dichlorophenyl)ureido]thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid hemihydrate | O.ClC=1C=C(C=CC1Cl)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O)=O.ClC=1C=C(C=CC1Cl)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O)=O | InChI=1S/2C19H14Cl2N4O6S3.H2O/c2*1-2-31-16(29)13(14-15(28)25(6-12(26)27)19(32)34-14)11-7-33-18(23-11)24-17(30)22-8-3-4-9(20)10(21)5-8;/h2*3-5,7H,2,6H2,1H3,(H,26,27)(H2,22,23,24,30);1H2
